US08217064B2
To a stirred solution of ethyl 2-(4-hydroxyphenyl)acetate (20 g, 0.11 mol) in 200 ml of CCl4, was slowly added bromine (18.8 g, 0.11 mol) dissolved in 10 ml of CCl4 at 0° C. for 30 min. The reaction mass was stirred for another 30 min at 0° C. After completion of the reaction, the mixture was poured onto crushed ice and extracted with DCM (×2). The combined organic layers were washed with water, and 10% sodium bi-sulfite solution, dried over Na2SO4, filtered and concentrated in vacuo to give ethyl 2-(3-bromo-4-hydroxyphenyl)acetate in 78% yield. (22.4 g). 1H NMR (CDCl3): 7.42 (s, 1H); 7.14 (d, 1H); 6.97 (d, 1H); 5.53 (bs, 1H); 4.13 (q, 2H); 3.52 (s, 2H); 1.16 (t, 3H).

reactant | ethyl 2-(4-hydroxyphenyl)acetate | 0.11 mol, 20 g | OC1=CC=C(C=C1)CC(=O)OCC | C10H12O3
reactant | bromine | 0.11 mol, 18.8 g | BrBr | Br2
solvent | CCl4 | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 2-(3-bromo-4-hydroxyphenyl)acetate | 78% yield | BrC=1C=C(C=CC1O)CC(=O)OCC | C10H11BrO3
